US04469694
2,2'-(1,4-Piperazindiyl)-bis-2,4,6-cycloheptatrien-1-one (I: R1 and R2 =H and R3 =1-oxo-2,4,6-cycloheptatrien-2-yl)
To a solution of piperazine (7.74 g) in methanol (10 ml) at 70° C., a solution of 2-methoxy-2,4,6-cycloheptatrien-1-one (8.16 g) in methanol (50 ml) was added drop by drop. The reaction mixture was heated at 95° C. for 5 hr, cooled and evaporated. The residue was dissolved in chloroform and water. The organic extract was separated, dried and evaporated. The residue was chromatographed on silica gel (250 g) using chloroform then 5% methanol in chloroform, increasing gradually the concentration of methanol up to 20%. The product was recrystallized from methanol to yield 2.9 g of the title compound: mp 184°-186° C.; ir(CHCl3) 1565 cm-1 ; uv max(MeOH) 355 (ε=19075), 256 (ε=29080) and 223 nm (ε=22460); nmr(CDCl3) δ3.55 (m, 8H) and 7.0 (m, 10H); and Anal. Calcd for C 18 H18N2O2 : C, 73.45% H, 6.16% N, 9.52% and Found: C, 73.76% H, 6.17% N, 9.45%.

reactant | piperazine | 7.74 g | N1CCNCC1 | C4H10N2
reactant | 2-methoxy-2,4,6-cycloheptatrien-1-one | 8.16 g | COC=1C(C=CC=CC1)=O | C8H8O2
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 2,2'-(1,4-Piperazindiyl)-bis-2,4,6-cycloheptatrien-1-one | 2.9 g | N1(CCN(CC1)C=1C(C=CC=CC1)=O)C=1C(C=CC=CC1)=O | C18H18N2O2
